### PR TITLE
chore: prove that negation on bitstreams is the same as negation on bitvectors

### PR DESCRIPTION
**Pull request by AtticusKuhn**
There are currently three sorries in SSA/Experimental/Bits/Fast/BitStream.Lean.

In this current PR, I only remove the sorry from "neg" to keep each PR small and atomic.

### CODE REVIEW

**Comment by bollu** [comment]
Unfortunately, I don't believe `lemma1`. Proof of disbelief:

```lean
axiom lemma1 {w n : Nat} {x : BitVec w} :
  (-x).getLsb (n + 1 + 1) = (x.getLsb (n + 1 + 1) != (-x).getLsb (n + 1))

open BitVec in
theorem contra : (-(1#2)).getLsb 2 =
  ((1#2).getLsb 2 != (-(1#2)).getLsb 1) :=
  lemma1

theorem exploison : False := by
  have := contra
  simp at this

/-- info: 'exploison' depends on axioms: [propext, lemma1, Quot.sound, Classical.choice] -/
#guard_msgs in #print axioms exploison
```

**Comment by AtticusKuhn** [comment]
That is a good catch @bollu . I did not see that before. I have refined these three lemmas so that proving my goal can be reduced to proving:

```lean
lemma lemma1 (h : n + 1 < w) : (-x).getLsb (n + 1) = decide (x.getLsb (n + 1) = !(-x).getLsb n) := by
  sorry

lemma lemma2 (h : n + 1 < w) (c  : x.getLsb n) :  (-x).getLsb (n + 1) = !x.getLsb (n + 1) := by
  sorry

lemma lemma3 :   (2 ^ w - x.toNat) % 2 ^ w / 2 % 2 = 1 ↔ (x.toNat / 2 % 2 = 1 ↔ ¬x.toNat % 2 = 1) := by
  sorry
```

And this time, I have written a script to check all small examples on lemma1, so I am confident that there will at least not be any obvious counter-examples to lemma1.

**Comment by AtticusKuhn** [comment]
Actually, I have managed to make further simplifications, and now I am only required to prove


```lean
lemma lemma7 {w t : Nat} (a : 0 < w) (h : t < 2 ^ w) : (2 ^ w - 1 - t + 1) % 2 = 1 ↔ t % 2 = 1 := by
  sorry
```

**Comment by bollu** [comment]
@AtticusKuhn here you go:

```lean
theorem lemma7 (w : Nat) (hw : w > 0) (t : Nat) (h : t < 2 ^ w) : (2 ^ w - 1 - t + 1) % 2 = 1 ↔ t % 2 = 1 := by
  rcases w with rfl | w
  · simp at hw
  · omega
```

**Comment by AtticusKuhn** [comment]
Thanks to the help froim Sid and Henrik, I have now removed one sorry (which was for neg).

**Comment by tobiasgrosser** [comment]
Is this something that can already pulled out and be reviewed separately? Let's try to keep our prs small.

**Comment by AtticusKuhn** [comment]
> Is this something that can already pulled out and be reviewed separately? Let's try to keep our prs small.

Got it. I will only solve the case of "neg" in this PR and solve the other two cases in another PR.

**Comment by AtticusKuhn** [comment]
I have removed the sorry in the case of "neg". I now think this PR is ready for review.

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 1]
```diff
@@ -380,11 +380,86 @@ local infix:20 " ≈ʷ " => EqualUpTo w
...
+    simp only [↓reduceIte]
+    intro i
+    induction i.val
+    simp only [BitVec.adcb, BitVec.getLsb, Nat.testBit_zero, ← decide_not, Nat.mod_two_ne_one,
+      decide_True, Bool.and_true, iunfolder_state, Bool.atLeastTwo_false_right, ← Bool.decide_and,
+      Bool.bne_false, doesNegCarry?, decide_eq_decide, and_iff_left_iff_imp]
+    intro _
+    omega
+    rename_i i ih2
+    simp only [self_eq_add_left, add_eq_zero, one_ne_zero, and_false, decide_False, Bool.and_false,
```
Comment (alexkeizer) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: Could you use `case ... => ...` for the induction subgoals?

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 2]
```diff
@@ -380,11 +380,86 @@ local infix:20 " ≈ʷ " => EqualUpTo w
...
+
+theorem neg_mod_odd {w t : Nat} (hw : 0 < w) (h : t < 2 ^ w) : (2 ^ w - 1 - t + 1) % 2 = 1 ↔ t % 2 = 1 := by
+  rcases w with rfl | w
+  · simp at hw
+  · omega
+
+lemma neg_mod_mod_odd (a : 0 < w) :
+  (2 ^ w - 1 - x.toNat + 1) % 2 ^ w % 2 = 1 ↔ x.toNat % 2 = 1 := by
+  rw [mod_mod (2 ^ w - 1 - x.toNat + 1) w a]
+  exact neg_mod_odd a x.toFin.isLt
```
Comment (alexkeizer) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: These lemmas should really live in the `Nat` namespace, not in `BitStream`

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 3]
```diff
@@ -380,11 +380,86 @@ local infix:20 " ≈ʷ " => EqualUpTo w
...
+  | i + 1 => doesNegCarry? x i
+
+lemma mod_mod (x : Nat) (w : Nat) (h : 0 < w) : x % 2 ^ w % 2 = x % 2 := by
+  -- We need to show that the least significant bit of x % 2 ^ w is the same as the least significant bit of x
+  -- Since 2 is a power of 2, the least significant bit of x % 2 ^ w is the same as the least significant bit of x
+  have y : 2 ^ 1 ∣ 2 ^ w := Nat.pow_dvd_pow 2 (by omega)
+  simp only [pow_one] at y
+  exact Nat.mod_mod_of_dvd x y
+
+theorem neg_mod_odd {w t : Nat} (hw : 0 < w) (h : t < 2 ^ w) : (2 ^ w - 1 - t + 1) % 2 = 1 ↔ t % 2 = 1 := by
```
Comment (alexkeizer) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion
theorem twoPow_sub_mod_eq {w t : Nat} (hw : 0 < w) (h : t < 2 ^ w) : (2 ^ w - t) % 2 = t % 2 := by
```
Since `2 ^ w - 1 - t + 1 = 2 ^ w - t`, we should just use the latter, simpler, phrasing. 
Also, saying that `a = 1` iff `b = 1` is an odd way of saying that `a = b`

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 4]
```diff
@@ -380,11 +380,86 @@ local infix:20 " ≈ʷ " => EqualUpTo w
...
+  rcases w with rfl | w
+  · simp at hw
+  · omega
+
+lemma neg_mod_mod_odd (a : 0 < w) :
+  (2 ^ w - 1 - x.toNat + 1) % 2 ^ w % 2 = 1 ↔ x.toNat % 2 = 1 := by
+  rw [mod_mod (2 ^ w - 1 - x.toNat + 1) w a]
```
Comment (alexkeizer) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: Here, same thing, this should be stated much simpler

File: SSA/Experimental/Bits/Fast/BitStream.lean (hunk 2 above)
Comment (alexkeizer) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion
  exact neg_mod_odd a x.toNatLt
```
I'm not sure if `toNatLt` is the right name, but this result exists directly for `BitVec.toNat`, no need to go via `Fin`

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 5]
```diff
@@ -380,11 +380,86 @@ local infix:20 " ≈ʷ " => EqualUpTo w
...
+  exact neg_mod_odd a x.toFin.isLt
+
+theorem ofBitVec_neg : ofBitVec (- x) ≈ʷ - (ofBitVec x) := by
+  intros n a
+  have neg_lemma : ⟨(-x).getLsb n, doesNegCarry? x n⟩ = (ofBitVec x).negAux n := by
+    rw [BitVec.neg_eq_not_add]
```
Comment (alexkeizer) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: This proof is rather big! Sometimes having a big proof is unavoidable, but often it's a sign that you might want to factor out some lemmas into their own results.

Note that it might be easier to prove this result in terms of addition. Note that `-x` is the same as `0 - x`, which is the same as `0 + ~~~x + 1`, i.e., `~~~x + 1`.
This is true (and I'm pretty sure, proven, or at least, not too hard to prove) for both bitvectors and bitstreams. 

Using this reduction and invoking `ofBitVec_add` (even if that one is not proven quite yet), might be a cleaner proof strategy

**Comment by alexkeizer** [comment]
@AtticusKuhn I took the liberty of renaming your PR: it's generally best to describe the actual result you've proven, instead of saying you've removed a sorry from a file. The former requires the reader to have remembered less context to understand what the PR does!

In the PR description, then, you can mention that this result closes one of the open `sorries` in that particular file

**Comment by AtticusKuhn** [comment]
Thank you Alex for your feedback.

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 6]
```diff
@@ -380,18 +380,18 @@ local infix:20 " ≈ʷ " => EqualUpTo w
...
+  intros j _
   rfl
 
+@[symm]
 theorem equal_up_to_symm (e : a ≈ʷ b) : b ≈ʷ a := by
   intros j h
   symm
   exact e j h
 
+@[trans]
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: i would like a [Trans](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#Trans) instance here

Comment (Equilibris) [reply SSA/Experimental/Bits/Fast/BitStream.lean]: Also can be more general with (a = b up to m) and (b = c up to w) then (a = c up to min m w)

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 7]
```diff
@@ -431,11 +478,8 @@ theorem neg_congr (e1 : a ≈ʷ b) : (-a) ≈ʷ -b := by
     simp only [ih (by omega), Bool.bne_right_inj, and_self]
   simp only [Neg.neg, BitStream.neg, neg_congr_lemma]
 
-theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
-  intros g h
-  simp only [not_eq, e1 g h]
 
-theorem equal_trans  (e1 :  a ≈ʷ b) (e2 : c ≈ʷ d)  : (a ≈ʷ c) = (b ≈ʷ d) := by
+theorem equal_trans  (e1 : a ≈ʷ b) (e2 : c ≈ʷ d) : (a ≈ʷ c) = (b ≈ʷ d) := by
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: I dont quite understand how this is a `trans` theorem? it feels more like theres some diagram youre talking about commutativity in

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 8]
```diff
@@ -422,6 +413,62 @@ theorem add_congr (e1 : a ≈ʷ b) (e2 : c  ≈ʷ d) : (a + c) ≈ʷ (b + d) :=
...
+    rename_i i ih
+    simp only [ih, OfNat.ofNat, ofNat, Prod.snd_swap, and_self]
+  ext i
+  simp only [neg_eq_not_add' i, Neg.neg, neg, negAux, HAdd.hAdd, Add.add, add, addAux, BitVec.adcb, Prod.fst_swap]
+
+lemma ofBitVec_ofNat (h : 0 < w) : @ofBitVec w 1 ≈ʷ ofNat 1 := by
+  intros n a
+  simp only [ofBitVec, a, ↓reduceIte, OfNat.ofNat, BitVec.getLsb_one, ofNat, Nat.testBit,
+    Nat.one_and_eq_mod_two, h, decide_True, Bool.true_and, HShiftRight.hShiftRight, ShiftRight.shiftRight]
+  match n with
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: I would prefer `cases n` or `cases' n with k` here but this is just style

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 9]
```diff
@@ -380,18 +380,18 @@ local infix:20 " ≈ʷ " => EqualUpTo w
 @[simp] theorem ofBitVec_add : ofBitVec (x + y) ≈ʷ (ofBitVec x) + (ofBitVec y)  := by
   sorry
 
-@[simp] theorem ofBitVec_neg : ofBitVec (- x) ≈ʷ  - (ofBitVec x) := by
-  sorry
-
+@[refl]
 theorem equal_up_to_refl : a ≈ʷ a := by
-  intros  j _
+  intros j _
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion
  intro _ _
```
isnt j unused here. Or even also

```suggestion
  intros
```
should work.

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 10]
```diff
@@ -422,6 +413,62 @@ theorem add_congr (e1 : a ≈ʷ b) (e2 : c  ≈ʷ d) : (a + c) ≈ʷ (b + d) :=
...
+        <;> simp only [Nat.shiftRight, le_refl]
+        omega
+      omega
+
+theorem ofBitVec_neg : ofBitVec (- x) ≈ʷ - (ofBitVec x) := by
+  by_cases wz : w = 0
+  intros _ a
+  simp only [wz, not_lt_zero'] at a
+  rw [BitVec.neg_eq_not_add]
+  exact equal_up_to_trans (by
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: why not use `apply` and de-indent the rest of this function.

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 11]
```diff
@@ -422,6 +413,62 @@ theorem add_congr (e1 : a ≈ʷ b) (e2 : c  ≈ʷ d) : (a + c) ≈ʷ (b + d) :=
...
+  simp only [not_eq, e1 g h]
+
+lemma ofBitVec_not' : ofBitVec (~~~ x) ≈ʷ ~~~ ofBitVec x := by
+  intros n a
+  simp only [ofBitVec, a, ↓reduceIte, BitVec.getLsb_not, decide_True, Bool.true_and, not_eq]
+
+lemma neg_eq_not_add : - a = ~~~ a + 1 := by
+  have neg_eq_not_add' (i : Nat) : a.negAux i = Prod.swap ((~~~a).addAux 1 i) := by
+    induction i
+    all_goals simp only [negAux, OfNat.ofNat, addAux, BitVec.adcb, not_eq, ofNat, Nat.testBit_zero, Nat.mod_succ,
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion
    <;> simp only [negAux, OfNat.ofNat, addAux, BitVec.adcb, not_eq, ofNat, Nat.testBit_zero, Nat.mod_succ,
```
Why not use just one of `all_goals` and `<;>`, I feel this could be done a bit more consistently

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 12]
```diff
@@ -422,6 +413,62 @@ theorem add_congr (e1 : a ≈ʷ b) (e2 : c  ≈ʷ d) : (a + c) ≈ʷ (b + d) :=
...
+      decide_True, Bool.atLeastTwo_false_right, Bool.and_true, Bool.bne_false, Bool.bne_true, Bool.not_not,
+      Prod.swap_prod_mk, Nat.testBit_add_one, Nat.reduceDiv,
+      Nat.zero_testBit, Bool.atLeastTwo_false_mid,Bool.false_bne, Prod.swap_prod_mk, Prod.mk.injEq, Bool.bne_left_inj]
+    rename_i i ih
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion
    rename_i _ ih
```
isnt `i` unused here

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 13]
```diff
@@ -422,6 +413,62 @@ theorem add_congr (e1 : a ≈ʷ b) (e2 : c  ≈ʷ d) : (a + c) ≈ʷ (b + d) :=
...
+
+theorem ofBitVec_neg : ofBitVec (- x) ≈ʷ - (ofBitVec x) := by
+  by_cases wz : w = 0
+  intros _ a
+  simp only [wz, not_lt_zero'] at a
+  rw [BitVec.neg_eq_not_add]
+  exact equal_up_to_trans (by
+    trans ofBitVec (~~~ x) + (ofBitVec (1 : BitVec w ))
+    exact ofBitVec_add
+    exact add_congr ofBitVec_not' equal_up_to_refl) (by
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: see comment above

**Review by Equilibris — COMMENTED** [review]
Good, would like these comments fixed up on before approving though

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 14]
```diff
@@ -422,6 +413,65 @@ theorem add_congr (e1 : a ≈ʷ b) (e2 : c  ≈ʷ d) : (a + c) ≈ʷ (b + d) :=
...
+lemma ofBitVec_ofNat : @ofBitVec w 1 ≈ʷ ofNat 1 := by
+  by_cases wz : w = 0
+  intros _ a
+  simp only [wz, not_lt_zero'] at a
+  exact ofBitVec_ofNat' (by omega)
+
+theorem ofBitVec_neg : ofBitVec (- x) ≈ʷ - (ofBitVec x) := by
+  rw [BitVec.neg_eq_not_add]
+  exact equal_up_to_trans (by
+    trans ofBitVec (~~~ x) + (ofBitVec (1 : BitVec w ))
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: Also this is the exact job of `calc` if you want me to calcify this

**Comment by AtticusKuhn** [comment]
Thank you for your feedback.

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 15]
```diff
@@ -380,62 +380,107 @@ local infix:20 " ≈ʷ " => EqualUpTo w
...
+
+lemma ofBitVec_ofNat : @ofBitVec w 1 ≈ʷ ofNat 1 := by
+  by_cases wz : w = 0
+  intros _ a
+  simp only [wz, not_lt_zero'] at a
+  exact ofBitVec_ofNat' (by omega)
+
+theorem ofBitVec_neg : ofBitVec (- x) ≈ʷ - (ofBitVec x) := by
+  rw [BitVec.neg_eq_not_add]
+  trans ~~~ ofBitVec x + (ofBitVec (1 : BitVec w ))
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: Can we `calc` this, it would be a lot easier to read then

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 16]
```diff
@@ -380,62 +380,107 @@ local infix:20 " ≈ʷ " => EqualUpTo w
...
+  simp only [ofBitVec, a, ↓reduceIte, BitVec.getLsb_not, decide_True, Bool.true_and, not_eq]
+
+lemma neg_eq_not_add : - a = ~~~ a + 1 := by
+  have neg_eq_not_add' (i : Nat) : a.negAux i = Prod.swap ((~~~a).addAux 1 i) := by
+    induction' i with _ ih
+    <;> simp only [negAux, OfNat.ofNat, addAux, BitVec.adcb, not_eq, ofNat, Nat.testBit_zero, Nat.mod_succ,
+      decide_True, Bool.atLeastTwo_false_right, Bool.and_true, Bool.bne_false, Bool.bne_true, Bool.not_not,
+      Prod.swap_prod_mk, Nat.testBit_add_one, Nat.reduceDiv,
+      Nat.zero_testBit, Bool.atLeastTwo_false_mid,Bool.false_bne, Prod.swap_prod_mk, Prod.mk.injEq, Bool.bne_left_inj]
+    simp only [ih, OfNat.ofNat, ofNat, Prod.snd_swap, and_self]
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: Please pull these `simp`s up into the simp above

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 17]
```diff
@@ -380,62 +380,107 @@ local infix:20 " ≈ʷ " => EqualUpTo w
...
 
+@[trans]
 theorem equal_up_to_trans (e1 : a ≈ʷ b) (e2 : b ≈ʷ c) : a ≈ʷ c := by
   intros j h
   trans b j
   exact e1 j h
   exact e2 j h
 
+instance congr_trans : Trans (EqualUpTo w) (EqualUpTo w) (EqualUpTo w) := {
+  trans := equal_up_to_trans
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: Please use where rather than {} here

**Review by Equilibris — COMMENTED** [review]
Please `calc` things up

**Comment by AtticusKuhn** [comment]
I have now made all the changes from Sid's, Alex's, and William's review. I think this PR is ready to be merged now. (I know there are some unrelated changes in the git diff, they were already merged in
https://github.com/opencompl/lean-mlir/pull/533
but I don't know how to mkake these changes disappear from the git diff)

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 18]
```diff
@@ -380,62 +380,104 @@ local infix:20 " ≈ʷ " => EqualUpTo w
...
+  simp only [ofBitVec, a, ↓reduceIte, BitVec.getLsb_not, decide_True, Bool.true_and, not_eq]
+
+theorem neg_eq_not_add : - a = ~~~ a + 1 := by
+  have neg_eq_not_add' (i : Nat) : a.negAux i = Prod.swap ((~~~a).addAux 1 i) := by
+    induction' i with _ ih
+    <;> simp only [negAux, OfNat.ofNat, addAux, BitVec.adcb, not_eq, ofNat, Nat.testBit_zero, Nat.mod_succ,
+      decide_True, Bool.atLeastTwo_false_right, Bool.and_true, Bool.bne_false, Bool.bne_true, Bool.not_not,
+      Prod.swap_prod_mk, Nat.testBit_add_one, Nat.reduceDiv,
+      Nat.zero_testBit, Bool.atLeastTwo_false_mid,Bool.false_bne, Prod.swap_prod_mk, Prod.mk.injEq, Bool.bne_left_inj]
+    simp only [ih, OfNat.ofNat, ofNat, Prod.snd_swap, and_self]
```
Comment (bollu) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: Jesus, this surely means that there are lemmas to be extracted, right? I'm not blocking the PR on this, merely pointing out that there is opportunity for theorem writing :)

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 19]
```diff
@@ -406,6 +406,7 @@ instance congr_equiv : Equivalence (EqualUpTo w) where
   symm := equal_up_to_symm
   trans := equal_up_to_trans
 
+
 theorem add_congr (e1 : a ≈ʷ b) (e2 : c ≈ʷ d) : (a + c) ≈ʷ (b + d) := by
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion
theorem add_congr (e1 : a ≈ʷ b) (e2 : c ≈ʷ d) : (a + c) ≈ʷ (b + d) := by
```

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 20]
```diff
@@ -418,8 +418,48 @@ theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
...
+    simp only [ih, OfNat.ofNat, ofNat, Prod.snd_swap, and_self]
+  ext i
+  simp only [neg_eq_not_add' i, Neg.neg, neg, negAux, HAdd.hAdd, Add.add, add, addAux, BitVec.adcb, Prod.fst_swap]
+
+theorem ofBitVec_ofNat' (h : 0 < w) : @ofBitVec w 1 ≈ʷ ofNat 1 := by
+  intros n a
+  simp only [ofBitVec, a, ↓reduceIte, OfNat.ofNat, BitVec.getLsb_one, ofNat, Nat.testBit,
+    Nat.one_and_eq_mod_two, h, decide_True, Bool.true_and, HShiftRight.hShiftRight, ShiftRight.shiftRight]
+  cases' n with k
+  · simp only [decide_True, Bool.true_eq, bne_iff_ne, ne_eq, not_false_eq_true]
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: Terminal simps, can be `simp` without the only. This might allow you to drop some theorems from the explicit list.

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 21]
```diff
@@ -418,8 +418,48 @@ theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
   intros g h
   simp only [not_eq, e1 g h]
 
+theorem ofBitVec_not' : ofBitVec (~~~ x) ≈ʷ ~~~ ofBitVec x := by
+  intros n a
+  simp only [ofBitVec, a, ↓reduceIte, BitVec.getLsb_not, decide_True, Bool.true_and, not_eq]
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: A terminal simp does not need to have `simp only`. This might allow you to reduce the list of explicit theorems.

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 22]
```diff
@@ -418,8 +418,48 @@ theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
...
+  intros n a
+  simp only [ofBitVec, a, ↓reduceIte, OfNat.ofNat, BitVec.getLsb_one, ofNat, Nat.testBit,
+    Nat.one_and_eq_mod_two, h, decide_True, Bool.true_and, HShiftRight.hShiftRight, ShiftRight.shiftRight]
+  cases' n with k
+  · simp only [decide_True, Bool.true_eq, bne_iff_ne, ne_eq, not_false_eq_true]
+  · simp only [self_eq_add_left, add_eq_zero, one_ne_zero, and_false, decide_False,
+    Nat.shiftRight, Bool.false_eq, bne_eq_false_iff_eq]
+    have : Nat.shiftRight 1 k ≤ 1 := by
+      induction k
+      <;> simp only [Nat.shiftRight, le_refl]
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: The 2nd place where `simp` without the only is permitted, is before a terminal omega.

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 23]
```diff
@@ -418,8 +418,48 @@ theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
...
+
+theorem ofBitVec_ofNat' (h : 0 < w) : @ofBitVec w 1 ≈ʷ ofNat 1 := by
+  intros n a
+  simp only [ofBitVec, a, ↓reduceIte, OfNat.ofNat, BitVec.getLsb_one, ofNat, Nat.testBit,
+    Nat.one_and_eq_mod_two, h, decide_True, Bool.true_and, HShiftRight.hShiftRight, ShiftRight.shiftRight]
+  cases' n with k
+  · simp only [decide_True, Bool.true_eq, bne_iff_ne, ne_eq, not_false_eq_true]
+  · simp only [self_eq_add_left, add_eq_zero, one_ne_zero, and_false, decide_False,
+    Nat.shiftRight, Bool.false_eq, bne_eq_false_iff_eq]
+    have : Nat.shiftRight 1 k ≤ 1 := by
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: Can you move the `have` before the `simp only`? This will make your simp + omega terminal, you can drop the `only`, and simplify the theorem list.

File: SSA/Experimental/Bits/Fast/BitStream.lean (hunk 20 above)
Comment (AtticusKuhn) [reply SSA/Experimental/Bits/Fast/BitStream.lean]: In the cases where the theorem list is short, I think it is fine to use "simp only"

Comment (tobiasgrosser) [reply SSA/Experimental/Bits/Fast/BitStream.lean]: Would there be any advantage in doing so?

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 24]
```diff
@@ -418,8 +418,46 @@ theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
...
 
+theorem ofBitVec_not' : ofBitVec (~~~ x) ≈ʷ ~~~ ofBitVec x := by
+  intros n a
+  simp only [ofBitVec, a, ↓reduceIte, BitVec.getLsb_not, decide_True, Bool.true_and, not_eq]
+
+theorem neg_eq_not_add : - a = ~~~ a + 1 := by
+  have neg_eq_not_add' (i : Nat) : a.negAux i = ((~~~a).addAux 1 i).swap := by
+    induction' i with _ ih
+    --- These simps are terminal, no need for "simp only".
+    · simp [negAux,addAux,BitVec.adcb, OfNat.ofNat, ofNat]
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion
    · simp [negAux,addAux,BitVec.adcb, OfNat.ofNat, ofNat]
```

File: SSA/Experimental/Bits/Fast/BitStream.lean (hunk 20 above)
Comment (AtticusKuhn) [reply SSA/Experimental/Bits/Fast/BitStream.lean]: I guess there is no advantage.

**Comment by AtticusKuhn** [comment]
Thanks for your feedback. I have changed some "simp only"s to "simp"s in the case where it is in the terminal position.

**Comment by AtticusKuhn** [comment]
I now think this PR is ready to be merged.

**Comment by tobiasgrosser** [comment]
> I now think this PR is ready to be merged.

Thank you for letting us know. This looks so much cleaner. Can we get a thumbs-up from @Equilibris? If he is happy, I will do a final pass. We then can pass it to @alexkeizer who hopefully can then directly merge this.

**Review by Equilibris — APPROVED** [review]
LGTM, proofs are very clean, i like it

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 25]
```diff
@@ -418,8 +418,41 @@ theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
   intros g h
   simp only [not_eq, e1 g h]
 
+theorem ofBitVec_not' : ofBitVec (~~~ x) ≈ʷ ~~~ ofBitVec x := by
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: Given that `≈ʷ` is a relatively straightforward concept, would it be preferable to name this `ofBitVec_not_eq_to` or something similar?

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 26]
```diff
@@ -418,8 +418,41 @@ theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
...
+  intros _ a
+  simp [ofBitVec, a]
+
+theorem neg_eq_not_add' : a.negAux = Prod.swap ∘ (~~~a).addAux 1 := by
+  funext i
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion
theorem negAux_eq_not_addAux : a.negAux = Prod.swap ∘ (~~~a).addAux 1 := by
  funext i
```
Would this naming make more sense?

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 27]
```diff
@@ -418,8 +418,41 @@ theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
...
+  induction' i with _ ih
+  · simp [negAux, addAux, BitVec.adcb, OfNat.ofNat, ofNat]
+  · simp [negAux, addAux, BitVec.adcb, OfNat.ofNat, ofNat, ih]
+
+theorem neg_eq_not_add : - a = ~~~ a + 1 := by
+  ext _
+  simp [neg_eq_not_add', Neg.neg, neg, HAdd.hAdd, Add.add, add, addAux, BitVec.adcb]
+
+theorem one_bit (i : Nat) : (ofNat 1) i = decide (0 = i) := by
+  cases i
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion
theorem ofNat_one (i : Nat) : ofNat 1 i = decide (0 = i) := by
  cases i
```
Would this be closer to the lean naming conventions?

Also, drop the redundant parenthesis.

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 28]
```diff
@@ -418,8 +418,41 @@ theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
...
+  <;> simp [ofNat, Nat.shiftRight]
+
+theorem ofBitVec_ofNat' (h : 0 < w) : @ofBitVec w 1 ≈ʷ ofNat 1 := by
+  intros n a
+  simp [one_bit n, ofBitVec, a, h]
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: Is there a benefit of factoring this out into a separate theorem. I feel just inlining this into `ofBitVec_ofNat` should not complexity `ofBitVec_ofNat`.

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 29]
```diff
@@ -418,8 +418,41 @@ theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
...
+
+theorem ofBitVec_ofNat {w : Nat} : EqualUpTo w (@ofBitVec w 1) (ofNat 1) := by
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: Why do you not use `≈ʷ` notation here as in the theorem above? This seems inconsistent.

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 30]
```diff
@@ -418,8 +418,41 @@ theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
...
+  cases w
+  · simp [EqualUpTo]
+  · apply ofBitVec_ofNat'
+    simp
+
 theorem ofBitVec_neg : ofBitVec (- x) ≈ʷ - (ofBitVec x) := by
-  sorry
+  calc
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean:454]: We are typically not using `calc` proofs. I am wondering how long a non-calc proof would be.

Comment (AtticusKuhn) [reply SSA/Experimental/Bits/Fast/BitStream.lean:454]: A non-calc proof would be about the same length. It's mostly a stylistic choice.

File: SSA/Experimental/Bits/Fast/BitStream.lean (hunk 29 above)
Comment (AtticusKuhn) [reply SSA/Experimental/Bits/Fast/BitStream.lean]: I was getting a strange issue with implicit variables before.

File: SSA/Experimental/Bits/Fast/BitStream.lean (hunk 30 above)
Comment (AtticusKuhn) [reply SSA/Experimental/Bits/Fast/BitStream.lean:454]: I've left both options in the code so that @alexkeizer can choose which style is better for the project.

File: SSA/Experimental/Bits/Fast/BitStream.lean (hunk 29 above)
Comment (AtticusKuhn) [reply SSA/Experimental/Bits/Fast/BitStream.lean]: This issue was due to "cases". I have removed that, but I still don't know what caused it.

File: SSA/Experimental/Bits/Fast/BitStream.lean (hunk 30 above)
Comment (bollu) [reply SSA/Experimental/Bits/Fast/BitStream.lean:454]: I personally like calc proofs, so +1 from me.

Comment (AtticusKuhn) [reply SSA/Experimental/Bits/Fast/BitStream.lean:454]: Thanks for your feedback. At the risk of bike-shedding, I think I'll go with the calc proof.

Comment (alexkeizer) [reply SSA/Experimental/Bits/Fast/BitStream.lean:454]: I'm also a fan of `calc`, so that should settle the debate!

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 31]
```diff
@@ -418,8 +418,37 @@ theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
   intros g h
   simp only [not_eq, e1 g h]
 
+theorem ofBitVec_not_eq_to : ofBitVec (~~~ x) ≈ʷ ~~~ ofBitVec x := by
+  intros _ a
+  simp [ofBitVec, a]
```
Comment (alexkeizer) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion
theorem ofBitVec_not_eqTo : ofBitVec (~~~ x) ≈ʷ ~~~ ofBitVec x := by
  intros _ a
  simp [ofBitVec, a]
```
I guess `eq_to` is the name you've given `≈ʷ`? I would prefer it to be one camelCased component of the theorem name. I would parse the current name as `ofBitVec (~~~ x)` is equal to some rhs that is described by `to`

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 32]
```diff
@@ -418,8 +418,37 @@ theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
...
+
+theorem negAux_eq_not_addAux : a.negAux = Prod.swap ∘ (~~~a).addAux 1 := by
+  funext i
+  induction' i with _ ih
```
Comment (alexkeizer) [inline SSA/Experimental/Bits/Fast/BitStream.lean:434]: Minor nit: it wouldn't hurt to have some explanation of the `Prod.swap` in a docstring for this theorem

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 33]
```diff
@@ -418,8 +418,37 @@ theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
...
+
+theorem neg_eq_not_add : - a = ~~~ a + 1 := by
+  ext _
+  simp [negAux_eq_not_addAux, Neg.neg, neg, HAdd.hAdd, Add.add, add, addAux, BitVec.adcb]
+
+theorem ofNat_one (i : Nat) : ofNat 1 i = decide (0 = i) := by
+  cases i
+  <;> simp [ofNat, Nat.shiftRight]
+
+theorem ofBitVec_ofNat : @ofBitVec w 1 ≈ʷ ofNat 1 := by
```
Comment (alexkeizer) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion
theorem ofBitVec_one_eqTo_ofNat : @ofBitVec w 1 ≈ʷ ofNat 1 := by
```
Or `ofBitVec_ofNat_one`, depending on which `ofNat` you intended to refer to in the name (the implicit one for the literal, or the explicit one on the rhs)

**Review by alexkeizer — APPROVED** [review]
LGTM! I've left some minor nits about naming and documentation, none of it particularly blocking. Feel free to merge after addressing what you feel is addressable, and ignore (after leaving a comment with justification!) what you feel like is perfectly fine as-is

File: SSA/Experimental/Bits/Fast/BitStream.lean (hunk 32 above)
Comment (AtticusKuhn) [reply SSA/Experimental/Bits/Fast/BitStream.lean:434]: It is very strange: in negAux, the carry bit is the right element of the pair, but in addAux, the carry bit is the left element of the pair. I don't know why this is.

Comment (AtticusKuhn) [reply SSA/Experimental/Bits/Fast/BitStream.lean:434]: Perhaps @tobiasgrosser could comment as to why this is, as it appears that he wrote that code.

**Comment by AtticusKuhn** [comment]
I would like to thank Alex, Sid, Tobias, William, and everyone who helped get this PR through.

File: SSA/Experimental/Bits/Fast/BitStream.lean (hunk 32 above)
Comment (alexkeizer) [reply SSA/Experimental/Bits/Fast/BitStream.lean:434]: That's what I figured, I meant just write exactly that, just write "We need `Prod.swap` here because in negAux, the carry bit is the right element of the pair, but in addAux it's the left element" as the docstring

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 34]
```diff
@@ -418,8 +418,44 @@ theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
...
+  ext _
+  simp [negAux_eq_not_addAux, Neg.neg, neg, HAdd.hAdd, Add.add, add, addAux, BitVec.adcb]
+
+theorem ofNat_one (i : Nat) : ofNat 1 i = decide (0 = i) := by
+  cases i
+  <;> simp [ofNat, Nat.shiftRight]
+
+theorem ofBitVec_one_eqTo_ofNat : @ofBitVec w 1 ≈ʷ ofNat 1 := by
+  by_cases h : w = 0
+  · simp [EqualUpTo ,h]
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean:448]: There is a broken whitespace before the `,h`.

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 35]
```diff
@@ -418,8 +418,44 @@ theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
...
+    simp [ofNat_one n, ofBitVec, a]
+    omega
+
 theorem ofBitVec_neg : ofBitVec (- x) ≈ʷ - (ofBitVec x) := by
-  sorry
+  calc
+  _ ≈ʷ ofBitVec (~~~ x + 1)            := by rw [BitVec.neg_eq_not_add]
+  _ ≈ʷ ofBitVec (~~~ x) + (ofBitVec 1) := ofBitVec_add
+  _ ≈ʷ ~~~ ofBitVec x   + 1            := add_congr ofBitVec_not_eqTo ofBitVec_one_eqTo_ofNat
+  _ ≈ʷ - (ofBitVec x)                  := by rw [neg_eq_not_add]
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean:458]: You can shorten the whitespace sequence here ` ~~~ ofBitVec x   + 1`.

**Review by tobiasgrosser — COMMENTED** [review]
Nice. Two minor comments where the code can be polished further.
